US05134148
Using the procedure described in Example 1, 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one was reacted with (2S,4R)-4-(5-fluoro-3-hydroxyphenyl)-4-methoxy-2-methyltetrahydropyran to give (2S,4R)-4-[5-fluoro-3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethoxy)phenyl]-4-methoxy-2-methyltetrahydropyran in 66% yield, m.p. 91°-93° C.

reactant | 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | (2S,4R)-4-(5-fluoro-3-hydroxyphenyl)-4-methoxy-2-methyltetrahydropyran | FC=1C=C(C=C(C1)[C@@]1(C[C@@H](OCC1)C)OC)O | C13H17FO3
product | (2S,4R)-4-[5-fluoro-3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethoxy)phenyl]-4-methoxy-2-methyltetrahydropyran | 66% yield | FC=1C=C(C=C(C1)[C@@]1(C[C@@H](OCC1)C)OC)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C24H26FNO4
